US06034246
Ammonium 4-(benzothiazol-2-yl)phenylsulphamate (DF191)
2(4'-Aminophenyl)benzothiazole was treated with chlorsulphonic acid in 2-picoline according to the above-described general procedure for preparation of sulphamate salts. About 35% ammonia solution instead of 10% aqueous Na2CO3 was used. A yellow powder was afforded in 69% yield, m.p. 223.1-226.8° C.

reactant | 2(4'-Aminophenyl)benzothiazole | NC1=CC=C(C=C1)C=1SC2=C(N1)C=CC=C2 | C13H10N2S
reactant | chlorsulphonic acid | ClS(=O)(=O)O | ClHO3S
reactant | sulphamate | S(N)([O-])(=O)=O
reactant | ammonia | N | H3N
solvent | 2-picoline | N1=C(C=CC=C1)C | C6H7N
product | Ammonium 4-(benzothiazol-2-yl)phenylsulphamate | 69% yield | S1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)NS([O-])(=O)=O.[NH4+] | InChI=1S/C13H10N2O3S2.H3N/c16-20(17,18)15-10-7-5-9(6-8-10)13-14-11-3-1-2-4-12(11)19-13;/h1-8,15H,(H,16,17,18);1H3
